US07851493B2
To a suspension of 35 mg of 3-{2-methoxy-4-[4-methylsulfanylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-1,2,4-oxadiazol-5-one in 4 mL of acetonitrile was added 1 mL of water and 84 mg of Oxone®. The resulting mixture was stirred overnight at room temperature, then poured into water and extracted with dichloromethane. The organic extracts were washed with a saturated aqueous solution if sodium bicarbonate and concentrated under reduced pressure. The crude product was triturated with dichloromethane/methanol/tetrahydrofuran/acetone to give 26 mg of 3-{4-[4-methanesulfonylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-1,2,4-oxadiazol-5-one as a white solid.

reactant | 3-{2-methoxy-4-[4-methylsulfanylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-phenyl}-4H-1,2,4-oxadiazol-5-one | 35 mg | COC1=C(C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CSC)C1=NOC(N1)=O | C22H18F3N3O4S2
reactant | water | 1 mL | O | H2O
reactant | Oxone | 84 mg | OOS(=O)[O-].[K+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 3-{4-[4-methanesulfonylmethyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methoxy-phenyl}-4H-1,2,4-oxadiazol-5-one | 26 mg | CS(=O)(=O)CC=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)OC)C1=CC=C(C=C1)C(F)(F)F | C22H18F3N3O6S2
